US05286742
Preparation of 4-Bromo-2-(p-chlorophenyl)-1-(ethoxymethyl)-N-methyl-5-(trifluoromethyl) pyrrole-3-thiocarboxamide
Isobutylchloroformate (0.3 mL, 2.3 mmol) is added to a mixture of 4-bromo-2-(p-chlorophenyl)-1-(ethoxymethyl)-5-(trifluoromethyl)pyrrole-3-carboxylic acid (0.83 g, 2 mmol) and triethylamine (0.33 mL, 2.3 mmol) in tetrahydrofuran at 0° C. The mixture is stirred for 1 hour at 0° C., treated with a 6 wt/wt % methylamine solution (10.6 g, 20 mmol), stirred at room temperature for 2 hours and diluted with a diethyl ether/water mixture. The organic phase is separated, dried over anhydrous Na2SO4, concentrated in vacuo, diluted with toluene and concentrated in vacuo to obtain a liquid. A mixture of the liquid in tetrahydrofuran is treated with 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (0.40 g, 1 mmol), heated at reflux for 2 hours, concentrated in vacuo and chromatographed on silica gel with a 4:1 hexane/ethyl acetate mixture to obtain the title product as a yellow gum (0.3 g) which is identified by 1H and 13C NMR spectral analyses.

reactant | Isobutylchloroformate | 2.3 mmol, 0.3 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 4-bromo-2-(p-chlorophenyl)-1-(ethoxymethyl)-5-(trifluoromethyl)pyrrole-3-carboxylic acid | 2 mmol, 0.83 g | BrC=1C(=C(N(C1C(F)(F)F)COCC)C1=CC=C(C=C1)Cl)C(=O)O | C15H12BrClF3NO3
reactant | triethylamine | 2.3 mmol, 0.33 mL | C(C)N(CC)CC | C6H15N
reactant | methylamine | 20 mmol, 10.6 g | CN | CH5N
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 1 mmol, 0.40 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether water | C(C)OCC.O
product | 4-Bromo-2-(p-chlorophenyl)-1-(ethoxymethyl)-N-methyl-5-(trifluoromethyl) pyrrole-3-thiocarboxamide | 0.3 g | BrC=1C(=C(N(C1C(F)(F)F)COCC)C1=CC=C(C=C1)Cl)C(NC)=S | C16H15BrClF3N2OS
